US06734179B2
2-Isopropyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide
From 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide with isoprenyltri-n-butyltin, bis(triphenylphosphine)palladium(II) chloride, triphenylphosphine, lithium chloride and 2,6-di-tert-butyl-para-cresol in DMF, then hydrogenation with palladium on charcoal in dichloromethane and methanol. ES-MS m/e (%): 412 (M+H+, 100).

reactant | 2-bromo-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C19H18BrN3O3S
reactant | isoprenyltri-n-butyltin | C(=CC(C)=C)[Sn](CCCC)(CCCC)CCCC
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | lithium chloride | [Cl-].[Li+]
reactant | 2,6-di-tert-butyl-para-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | palladium on charcoal | [Pd] | Pd
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-Isopropyl-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-isonicotinamide | C(C)(C)C=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3CCOCC3)OC)C=CN1 | C22H25N3O3S
